US08791123B2
(R)—N-cyclopropyl-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and cyclopropylamine in Step D. The crude material was purified by reverse phase HPLC (0-75% acetonitrile/water) to provide the title compound (11 mg, 39% yield). MS (apci) m/z=412.1 (M+H).

reactant | (R)-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC1=C(C=C(C=C1)F)[C@H]1CCC(N1C1=NC=2N(C=C1)N=CC2C(=O)O)(C)C | C19H18F2N4O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (R)—N-cyclopropyl-5-(5-(2,5-difluorophenyl)-2,2-dimethylpyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 11 mg, 39% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2C(CC[C@@H]2C2=C(C=CC(=C2)F)F)(C)C | C22H23F2N5O
